US05646173
A solution of 2.58 g of (RS)-2'-(2-oxoethyl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one and 80 mg of p-toluenesulfonic acid in 70 ml of anhydrous toluene was heated on a water separator. A solution of 3.0 g of (R)-1-amino-2-propanol in 20 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes. Subsequently, the mixture was boiled for an additional 45 minutes, during which the solvent was reduced to a volume of 20 ml. The cooled reaction mixture was purified by column chromatography on silica gel (ethyl acetate/hexane 1:1). 1.98 g (67%) of (R)-1-[7'-methoxy-1',4'-dihydro-spiro[cyclopentane-1,4'-indeno[1,2-b]pyrrole]-1'-yl]-propan-2-ol were obtained as a yellow oil.

reactant | (RS)-2'-(2-oxoethyl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one | 2.58 g | O=CCC1C2(C3=CC=C(C=C3C1=O)OC)CCCC2 | C16H18O3
reactant | water | O | H2O
reactant | (R)-1-amino-2-propanol | 3.0 g | NC[C@@H](C)O | C3H9NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 80 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (R)-1-[7'-methoxy-1',4'-dihydro-spiro[cyclopentane-1,4'-indeno[1,2-b]pyrrole]-1'-yl]-propan-2-ol | 1.98 g, 67% | COC1=CC=C2C3(C4=C(N(C=C4)C[C@@H](C)O)C2=C1)CCCC3 | C19H23NO2
